US06673795B2
In analogy to the procedure described in example 75c, the 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile was treated with 4-(4-fluoro-phenyl)-piperidine and N-ethyldiisopropylamine in N,N-dimethylformamide at room temperature to yield the 3-[4-(4-fluoro-phenyl)-piperidin-1-yl]-5-methyl-6-phenyl-pyrazine-2-carbonitrile as yellow oil; MS: 373 (M+H)+.

reactant | 3-chloro-5-methyl-6-phenyl-pyrazine-2-carbonitrile | ClC=1C(=NC(=C(N1)C)C1=CC=CC=C1)C#N | C12H8ClN3
reactant | 4-(4-fluoro-phenyl)-piperidine | FC1=CC=C(C=C1)C1CCNCC1 | C11H14FN
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[4-(4-fluoro-phenyl)-piperidin-1-yl]-5-methyl-6-phenyl-pyrazine-2-carbonitrile | FC1=CC=C(C=C1)C1CCN(CC1)C=1C(=NC(=C(N1)C)C1=CC=CC=C1)C#N | C23H21FN4
